US08404677B2
Ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate
A 100 mL round-bottomed flask was charged with ethyl-4-hydroxy-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (6.49 g, 28.4 mmol) in 14 mL POCl3. To the solution was added N,N-diisopropylethylamine (1.2 mL), the reaction mixture was stirred at 80˜90° C. for 2 hours. The mixture was condensed under reduced pressure yielding the dark brown residue. To the residue was added iced water, then diluted with DCM, and saturated aqueous NaHCO3 solution. The separated organic layer was dried over MgSO4. The solvent was removed by a rotavapor providing dark brown oily product (6.76 g, 96%). MS m/z: 246.9 (M+H)+, 248.9 (isotope).

reactant | ethyl-4-hydroxy-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 28.4 mmol, 6.49 g | C(C)OC(=O)C=1C(=NC(=NC1C)SC)O | C9H12N2O3S
reactant | N,N-diisopropylethylamine | 1.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
reactant | POCl3 | 14 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | Ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 6.76 g, 96% | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
